US07211595B2
2-chloro-4-iodobenzonitrile
A solution of 4-amino-2-chlorobenzonitrile (30.5 g, 0.2 mol) in 1:1 diethyl ether/3M HCl (600 mL) at 0° C. was treated dropwise over 15 minutes with a solution of sodium nitrite (18 g, 0.26 mol) in water (100 mL), stirred 15 minutes, then treated with a solution of potassium iodide (50 g, 0.3 mol) in water (50 mL) dropwise over 45 minutes, warmed to room temperature, and stirred for 1.5 hours. The organic phase was washed with water (3×100 mL) and the combined aqueous layers were extracted with diethyl ether. The combined organic layers were combined, washed sequentially with saturated NaHCO3, 25% Na2S2O3, and brine, dried (MgSO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 19:1/hexanes:ethyl acetate, triturated in hexanes, filtered, and dried to provide the desired product.

reactant | 4-amino-2-chlorobenzonitrile | 0.2 mol, 30.5 g | NC1=CC(=C(C#N)C=C1)Cl | C7H5ClN2
reactant | diethyl ether | 3M, 600 mL | C(C)OCC | C4H10O
reactant | sodium nitrite | 0.26 mol, 18 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 0.3 mol, 50 g | [I-].[K+]
solvent | water | 100 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | 2-chloro-4-iodobenzonitrile | ClC1=C(C#N)C=CC(=C1)I | C7H3ClIN
